US05273975
Oxalyl chloride (1.2 mL, 0.014 mol) was added with stirring to methylene chloride (20 mL) at -78° C. Ten minutes after addition was complete, DMSO (2 mL) was added and stirring was continued for an additional 10 minutes. β-Dipropylamino)-1H-benzimidazole-4-propanol (2.1 g, 7.5 mmol) in methylene chloride was added and, after 30 minutes, the solution was allowed to warm to room temperature. Water was added, the methylene chloride was separated and evaporated, and the residue was chromatographed on silica gel to give β-(dipropylamino)-1H-benzimidazole-4-propanal as an oil.

reactant | Oxalyl chloride | 0.014 mol, 1.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 2 mL | CS(=O)C | C2H6OS
reactant | 1H-benzimidazole-4-propanol | 7.5 mmol, 2.1 g | N1C=NC2=C1C=CC=C2CCCO | C10H12N2O
reactant | Water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | β-(dipropylamino)-1H-benzimidazole-4-propanal | C(CC)N(C(CC=O)C1=CC=CC=2NC=NC21)CCC | C16H23N3O
